Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:5]#[N:6])([H:7])([H:8])[H:9].[N:2](=[C:3]=[N:4][H:11])[H:10]>>[C:1]([N:2](/[C:3](=[N:4]/[H:11])[C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],95.77518167499976
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C@@:2]1([H:13])[O:3][N:7]=[C:6]([H:12])[O:5][C:4]1([H:10])[H:11])([H:8])[H:9],106.74047286176399
[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]1=[C:3]([H:11])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9].[H:10][H:12],108.834798917521
[C:1]([C:2](=[O:3])[H:10])([H:7])([H:8])[H:9].[C:4](=[C:5]([H:14])[H:15])([H:12])[H:13].[O:6]([H:11])[H:16]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],31.7509143787887
[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@:5]1([O:6][H:7])[H:10]>>[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],43.753945780090504
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5][O:6][H:16])([H:7])([H:8])[H:9],81.3338108577032
[C:1]([C:2]1=[C:4]([H:12])[C:3]1([H:9])[H:10])([H:5])([H:6])[H:7].[H:8][H:11]>>[C:1]([C:2]1([H:8])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:5])([H:6])[H:7],71.90347549613108
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[H:8][H:10].[N:1](=[C:2]1\[O:3][C@:4]1([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])\[H:9],85.97826230970621
[C:1]([C:2]([N:3]([C:4](=[O:5])[H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C-:2]([N+:3]([C:4](=[O:5])[H:12])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8],95.90988313285273
[C:1]([C@@:2]([O:3][H:10])([C:4](=[O:5])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]([O:3][H:10])=[C:4]=[O:5])([H:6])([H:7])[H:8].[H:9][H:11],62.786153827460296
[C:1]([N:2]=[C:3]=[C:5]([O:6][N:4]([H:11])[H:12])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],13.810151291701615
[C:1]([O:2][C:3]([C:4](=[C:6]=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([H:14])([H:15])([H:16])[H:17]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],64.5951271400244
[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[N:1]1([H:9])[C@@:2]([C:6]#[N:7])([H:10])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14].[O:5]([H:8])[H:15],69.7133973616136
[C:1]([C:2]([C:3]([O:4][C:5]=[O:6])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[N:7]([H:15])[H:16]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],13.695377284385003
[C:1]([O:2]/[C:3]([C:4]([H:12])([H:13])[H:14])=[C:5](\[C:6]([O:7][H:19])([H:17])[H:18])[H:15])([H:8])([H:9])[H:10].[H:11][H:16]>>[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],75.1277295030752
[C-:4]([O:5][H:14])=[C:6]=[C+:7][H:15].[O:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],16.80810013399079
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7]>>[C:3](=[C:4]([C:5]#[C:6][H:12])[H:11])([H:9])[H:10].[O:1]([C:2][H:8])[H:7],54.4552633957973
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:6]([H:15])([H:16])[C@@:7]1([C:4][O:5][H:14])[H:17])([H:8])([H:9])[H:10],91.73656358319107
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:6]([H:13])([H:14])[C:4]([O:5][H:12])=[C:7]1[H:15])[H:8],56.951132880413894
[C-:1]([N+:2](/[C:3](=[N:4]/[H:11])[C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[C:1]([N:2](/[C:3](=[N:4]/[H:11])[C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],6.784788878452389
[H:8][H:14].[O:1]=[C:2]([C:3]([C:4]1([O:5][H:12])[C:6]([H:13])=[C:7]1[H:15])([H:10])[H:11])[H:9]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],36.2272184240326
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2]([O:3][N:7]([C:6](=[O:5])[H:12])[H:13])=[C:4]([H:10])[H:11])([H:8])[H:9],62.8959839622919
[O:1]([C:2]([C:5](=[C:4]=[C:3]([C:6]#[N:7])[H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8],97.83891486555022
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:13].[C:2](=[C:3](\[C:4](=[O:5])[H:14])[H:12])(\[C:6]#[N:7])[H:11],85.768453446704
